US04060528
A mixture of 15.5 parts of diethyl 2-methyl-2-[p-(5-methyl-2-thenoyl)phenyl]malonate and 120 parts of sodium hydroxide solution 5% is stirred and refluxed for 5 hours. The reaction mixture is cooled and shaken twice with 80 parts of benzene. The aqueous phase is acidified with concentrated hydrochloric acid solution. After standing for 10 minutes, the product is extracted with chloroform. The extract is washed with water, dried, filtered and evaporated. The residue is triturated in petroleumether. The crude product is filtered off and purified by column-chromatography using a mixture of chloroform and 10% of methanol. The pure fractions are collected and the solvent is evaporated. The residue is crystallized from acetonitrile at -20°0 C, yielding p-(5-methyl-2-thenoyl)hydratropic acid; mp. 93.7° C.

reactant | diethyl 2-methyl-2-[p-(5-methyl-2-thenoyl)phenyl]malonate | CC(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)C(C1=CC=C(S1)C)=O | C20H22O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-(5-methyl-2-thenoyl)hydratropic acid | CC1=CC=C(S1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C15H14O3S
